* Z:\celera\projects\Simplis\playbrian\trials\verification\sim_CHARGEPUMPmain.sxsch
*#SIMETRIX
X$CV 12 celera vars: simulation_module='name' status='dev' simulation='typical'

.node_map SIMPV 19
.node_map OUT 20
.node_map PGND 21
.node_map HV 26
.node_map enable_chargepump 25
.node_map CLOW 22
.node_map clock_chargepump 23
.node_map CHIGH 24
.options
+ PSP_NPT=10001
+ POP_ITRMAX=20
+ POP_OUTPUT_CYCLES=5
+ POP_SHOWDATA
+ SNAPSHOT_INTVL=0
+ SNAPSHOT_NPT=11
+ MIN_AVG_TOPOLOGY_DUR=1a
+ AVG_TOPOLOGY_DUR_MEASUREMENT_WINDOW=128
*.pop TRIG_GATE={{TRIG_GATE}} TRIG_COND=0_TO_1 MAX_PERIOD=1u CONVERGENCE=1p CYCLES_BEFORE_LAUNCH=5 TD_RUN_AFTER_POP_FAILS=-1
.tran 300u 0
.globalvar REF=1.0
.globalvar VIN=5
.globalvar tdext_khz=1000

X$CHARGEPUMPmain 19 20 21 22 23 24 25 26 CHARGEPUMPmain

** From Z:\celera\projects\Simplis\playbrian\trials\design\CHARGEPUMPmain.sxcmp
.subckt CHARGEPUMPmain 40 41 42 43 44 45 46 47
*#hierarchy
.node_map SIMPV 40
.node_map p1 48
.node_map p2 49
.node_map OUT 41
.node_map PGND 42
.node_map HV 47
.node_map enable_chargepump 46
.node_map CLOW 43
.node_map clock_chargepump 44
.node_map CHIGH 45
X$U1 40 45 48 41 49 42 46 46 42 46 CHARGEPUMPpowerHighside
X$U10 43 pinprobe vars: pinprobe_description='CHARGEPUMP_fly_cap_bottom' pinprobe_mode='output' pinprobe_input='tbd' pinprobe_output='pad'
X$U11 45 pinprobe vars: pinprobe_description='CHARGEPUMP_fly_cap_top' pinprobe_mode='output' pinprobe_input='tbd' pinprobe_output='pad'
X$U2 40 48 49 43 46 42 46 42 47 46 CHARGEPUMPpowerLowside
X$U3 44 48 49 CHARGEPUMPctrl
X$U4 40 pinprobe vars: pinprobe_description='CHARGEPUMP_analog_supply' pinprobe_mode='input' pinprobe_input='ebrick' pinprobe_output='tbd'
X$U5 42 pinprobe vars: pinprobe_description='CHARGEPUMP_power_ground' pinprobe_mode='input' pinprobe_input='pad' pinprobe_output='tbd'
X$U6 44 pinprobe vars: pinprobe_description='CHARGEPUMP_clock' pinprobe_mode='input' pinprobe_input='ebrick' pinprobe_output='tbd'
X$U7 46 pinprobe vars: pinprobe_description='CHARGEPUMP_enable' pinprobe_mode='input' pinprobe_input='ebrick' pinprobe_output='tbd'
X$U8 47 pinprobe vars: pinprobe_description='CHARGEPUMP_high_voltage_supply' pinprobe_mode='input' pinprobe_input='pad' pinprobe_output='tbd'
X$U9 41 pinprobe vars: pinprobe_description='CHARGEPUMP_output' pinprobe_mode='output' pinprobe_input='tbd' pinprobe_output='pad'
.ends CHARGEPUMPmain

** From Z:\celera\projects\Simplis\playbrian\trials\design\CHARGEPUMPpowerHighside.sxcmp
.subckt CHARGEPUMPpowerHighside 139 140 141 142 143 144 145 148 147 146
*#hierarchy
.node_map SIMPV 139
.node_map FRTNO 150
.node_map mode1 145
.node_map BUS1$0 117
.node_map mode2 146
.node_map BUS1$1 118
.node_map mode3 147
.node_map OUT 142
.node_map BUS2$0 119
.node_map BUS2$1 120
.node_map BUS3$0 121
.node_map BUS3$1 122
.node_map phase0 141
.node_map BUS3$2 123
.node_map phase1 143
.node_map enable_power 148
.node_map BUS4$0 124
.node_map BUS4$1 125
.node_map FRTN 149
.node_map PGND 144
.node_map BUS5$0 126
.node_map BUS5$1 127
.node_map BUS6$0 128
.node_map BUS6$1 129
.node_map BUS10$0 137
.node_map BUS10$1 138
.node_map BUS7$0 130
.node_map BUS7$1 131
.node_map BUS8$0 132
.node_map BUS8$1 133
.node_map BUS8$2 134
.node_map BUS9$0 135
.node_map CHIGH 140
.node_map BUS9$1 136
X$fetdriver1 140 63 64 149 71 65 66 67 117 118 119 120 148 76 fetdriver vars: fetdriver_type='p' fetdriver_on_adjust='no' fetdriver_on_adjust_por='0' fetdriver_on_adjust_name='text' fetdriver_on_adjust_description='text' fetdriver_off_adjust='no' fetdriver_off_adjust_por='0' fetdriver_off_adjust_name='text' fetdriver_off_adjust_description='text' fetdriver_faultdisable='no' fetdriver_levelshiftenable='yes' fetdriver_levelshiftinput='yes' fetdriver_status_levelshifter='no' fetdriver_status_delay_adjust='no' fetdriver_statusdelay_name='text' fetdriver_statusdelay_description='text' fetdriver_passive='1000' fetdriver_dft='no' fetdriver_design='consumer' fetdriver_on_ron=10 fetdriver_off_ron=1 fetdriver_vmaxlevelshift=30 fetdriver_status_delay=5 fetdriver_vmax=6
X$fetdriver2 140 78 79 149 86 80 81 82 124 125 126 127 148 89 fetdriver vars: fetdriver_type='p' fetdriver_on_adjust='no' fetdriver_on_adjust_por='0' fetdriver_on_adjust_name='text' fetdriver_on_adjust_description='text' fetdriver_off_adjust='no' fetdriver_off_adjust_por='0' fetdriver_off_adjust_name='text' fetdriver_off_adjust_description='text' fetdriver_faultdisable='no' fetdriver_levelshiftenable='yes' fetdriver_levelshiftinput='yes' fetdriver_status_levelshifter='no' fetdriver_status_delay_adjust='no' fetdriver_statusdelay_name='text' fetdriver_statusdelay_description='text' fetdriver_passive='1000' fetdriver_dft='no' fetdriver_design='consumer' fetdriver_on_ron=40 fetdriver_off_ron=1 fetdriver_vmaxlevelshift=30 fetdriver_status_delay=5 fetdriver_vmax=6
X$fetdriver3 142 90 91 150 98 92 93 94 128 129 130 131 148 103 fetdriver vars: fetdriver_type='p' fetdriver_on_adjust='no' fetdriver_on_adjust_por='0' fetdriver_on_adjust_name='text' fetdriver_on_adjust_description='text' fetdriver_off_adjust='no' fetdriver_off_adjust_por='0' fetdriver_off_adjust_name='text' fetdriver_off_adjust_description='text' fetdriver_faultdisable='no' fetdriver_levelshiftenable='yes' fetdriver_levelshiftinput='yes' fetdriver_status_levelshifter='no' fetdriver_status_delay_adjust='no' fetdriver_statusdelay_name='text' fetdriver_statusdelay_description='text' fetdriver_passive='1000' fetdriver_dft='no' fetdriver_design='consumer' fetdriver_on_ron=10 fetdriver_off_ron=1 fetdriver_vmaxlevelshift=30 fetdriver_status_delay=5 fetdriver_vmax=6
X$fetdriver4 142 104 105 150 113 106 107 109 135 136 137 138 148 116 fetdriver vars: fetdriver_type='p' fetdriver_on_adjust='no' fetdriver_on_adjust_por='0' fetdriver_on_adjust_name='text' fetdriver_on_adjust_description='text' fetdriver_off_adjust='no' fetdriver_off_adjust_por='0' fetdriver_off_adjust_name='text' fetdriver_off_adjust_description='text' fetdriver_faultdisable='no' fetdriver_levelshiftenable='yes' fetdriver_levelshiftinput='yes' fetdriver_status_levelshifter='no' fetdriver_status_delay_adjust='no' fetdriver_statusdelay_name='text' fetdriver_statusdelay_description='text' fetdriver_passive='1000' fetdriver_dft='no' fetdriver_design='consumer' fetdriver_on_ron=10 fetdriver_off_ron=1 fetdriver_vmaxlevelshift=30 fetdriver_status_delay=5 fetdriver_vmax=6
.PRINT V(#FRTNO)
.GRAPH :#FRTNO curveLabel= FRTNO nowarn=true ylog=auto xlog=auto analysis=tran|pop disabled=false PROBEREF=Probe1  
.PRINT V(#FRTN)
.GRAPH :#FRTN curveLabel= FRTN nowarn=true ylog=auto xlog=auto analysis=tran|pop disabled=false PROBEREF=Probe2  
X$U1 141 pinprobe vars: pinprobe_description='phase0' pinprobe_mode='input' pinprobe_input='tbd' pinprobe_output='tbd'
X$U10 142 139 150 144 148 108 114 floatingreturn vars: floatingreturn_strength='strong' floatingreturn_accuracy='no' floatingreturn_trim_name='text' floatingreturn_trim_description='text' floatingreturn_quiet='no' floatingreturn_dft='no' floatingreturn_supply=30 floatingreturn_okdelay=0 floatingreturn_vmax=6
X$U11 145 pinprobe vars: pinprobe_description='mode1' pinprobe_mode='input' pinprobe_input='tbd' pinprobe_output='tbd'
X$U12 72 140 121 122 123 74 73 149 capacitorfixed vars: capacitor_control='capacitor' capacitor_datasheet_accurate_name='text' capacitor_datasheet_accurate_description='text' capacitor_adjust_control='factory' capacitor_datasheet_adjust_name='text' capacitor_datasheet_adjust_description='text' capacitor_kelvin='no' capacitor_type='tbd' capacitor_dft='no' capacitor_value=40 capacitor_accurate_value=1 capacitor_accurate_lsb=1 capacitor_adjust0=1 capacitor_adjust1=2 capacitor_adjust2=4 capacitor_adjust3=8 capacitor_adjust4=0 capacitor_adjust5=0 capacitor_adjust6=0 capacitor_adjust7=0 capacitor_adjust_por=4 capacitor_1=0 capacitor_vinitial=0 capacitor_0=0 capacitor_vmax=6 capacitor_maximumvoltage=30
X$U13 142 140 90 97 96 95 fet vars: fet_usage='power' fet_replica='no' fet_type='p' fet_diode='yes' fet_diodedrive='diode' fet_kelvin='no' fet_dft='no' fet_layoutrotate='no' fet_powerswitch='no' fet_ron_signal=1k fet_ron_power=1 fet_replica_gain=10 fet_maximumvds=30 count_1=0 fet_vmax=6
X$U14 99 142 132 133 134 101 100 150 capacitorfixed vars: capacitor_control='capacitor' capacitor_datasheet_accurate_name='text' capacitor_datasheet_accurate_description='text' capacitor_adjust_control='factory' capacitor_datasheet_adjust_name='text' capacitor_datasheet_adjust_description='text' capacitor_kelvin='no' capacitor_type='tbd' capacitor_dft='no' capacitor_value=40 capacitor_accurate_value=1 capacitor_accurate_lsb=1 capacitor_adjust0=1 capacitor_adjust1=2 capacitor_adjust2=4 capacitor_adjust3=8 capacitor_adjust4=0 capacitor_adjust5=0 capacitor_adjust6=0 capacitor_adjust7=0 capacitor_adjust_por=4 capacitor_1=0 capacitor_vinitial=0 capacitor_0=0 capacitor_vmax=6 capacitor_maximumvoltage=30
X$U15 102 103 inv vars: logicgate_type='inv' logicgate_vmax=6
X$U16 142 140 104 112 111 110 fet vars: fet_usage='power' fet_replica='no' fet_type='p' fet_diode='yes' fet_diodedrive='diode' fet_kelvin='no' fet_dft='no' fet_layoutrotate='no' fet_powerswitch='no' fet_ron_signal=1k fet_ron_power=1 fet_replica_gain=10 fet_maximumvds=30 count_1=0 fet_vmax=6
X$U17 146 pinprobe vars: pinprobe_description='mode2' pinprobe_mode='input' pinprobe_input='tbd' pinprobe_output='tbd'
X$U18 143 102 147 nand2 vars: logicgate_type='nand2' logicgate_vmax=6
X$U19 141 88 145 nand2 vars: logicgate_type='nand2' logicgate_vmax=6
X$U2 143 pinprobe vars: pinprobe_description='phase1' pinprobe_mode='tbd' pinprobe_input='tbd' pinprobe_output='tbd'
X$U20 88 89 inv vars: logicgate_type='inv' logicgate_vmax=6
X$U21 75 76 inv vars: logicgate_type='inv' logicgate_vmax=6
X$U22 141 75 147 nand2 vars: logicgate_type='nand2' logicgate_vmax=6
X$U23 140 139 149 144 148 77 87 floatingreturn vars: floatingreturn_strength='strong' floatingreturn_accuracy='no' floatingreturn_trim_name='text' floatingreturn_trim_description='text' floatingreturn_quiet='no' floatingreturn_dft='no' floatingreturn_supply=30 floatingreturn_okdelay=0 floatingreturn_vmax=6
X$U24 143 115 146 nand2 vars: logicgate_type='nand2' logicgate_vmax=6
X$U25 115 116 inv vars: logicgate_type='inv' logicgate_vmax=6
X$U3 140 pinprobe vars: pinprobe_description='CHIGH' pinprobe_mode='tbd' pinprobe_input='tbd' pinprobe_output='tbd'
X$U30 148 pinprobe vars: pinprobe_description='Enable_DOUBLE_precharge' pinprobe_mode='input' pinprobe_input='tbd' pinprobe_output='tbd'
X$U4 142 pinprobe vars: pinprobe_description='OUT' pinprobe_mode='tbd' pinprobe_input='tbd' pinprobe_output='tbd'
X$U5 144 pinprobe vars: pinprobe_description='PGND' pinprobe_mode='tbd' pinprobe_input='tbd' pinprobe_output='tbd'
X$U6 147 pinprobe vars: pinprobe_description='mode3' pinprobe_mode='input' pinprobe_input='tbd' pinprobe_output='tbd'
X$U7 140 139 63 70 69 68 fetdp vars: fet_usage='power' fet_replica='no' fet_type='p' fet_diode='yes' fet_diodedrive='diode' fet_kelvin='no' fet_dft='no' fet_layoutrotate='no' fet_powerswitch='yes' fet_ron_signal=1k fet_ron_power=1 fet_replica_gain=10 fet_maximumvds=30 count_1=0 fet_vmax=6
X$U8 140 139 78 85 84 83 fetdp vars: fet_usage='power' fet_replica='no' fet_type='p' fet_diode='yes' fet_diodedrive='diode' fet_kelvin='no' fet_dft='no' fet_layoutrotate='no' fet_powerswitch='yes' fet_ron_signal=1k fet_ron_power=1 fet_replica_gain=10 fet_maximumvds=30 count_1=0 fet_vmax=6
X$U9 139 pinprobe vars: pinprobe_description='Input_Voltage_Supply' pinprobe_mode='tbd' pinprobe_input='tbd' pinprobe_output='tbd'
.ends CHARGEPUMPpowerHighside

** From Z:\celera\projects\Simplis\playbrian\trials\design\CHARGEPUMPpowerLowside.sxcmp
.subckt CHARGEPUMPpowerLowside 153 154 155 156 157 158 159 160 152 161
*#hierarchy
.node_map FRTNL 162
.node_map SIMPV 153
.node_map mode1 157
.node_map BUS1$0 123
.node_map mode2 159
.node_map BUS1$1 124
.node_map mode3 160
.node_map BUS2$0 125
.node_map BUS2$1 126
.node_map BUS3$0 127
.node_map BUS3$1 128
.node_map phase0 154
.node_map BUS3$2 129
.node_map phase1 155
.node_map enable_power 161
.node_map BUS4$0 130
.node_map BUS4$1 131
.node_map BUS4$2 132
.node_map PGND 158
.node_map BUS5$0 133
.node_map BUS5$1 134
.node_map HV 152
.node_map CLOW 156
.node_map BUS6$0 135
.node_map BUS6$1 136
.node_map BUS10$0 144
.node_map BUS10$1 145
.node_map BUS7$0 137
.node_map BUS7$1 138
.node_map BUS11$0 146
.node_map BUS7$2 139
.node_map BUS11$1 147
.node_map BUS8$0 140
.node_map BUS8$1 141
.node_map BUS12$0 148
.node_map BUS12$1 149
.node_map BUS9$0 142
.node_map BUS9$1 143
.node_map BUS13$0 150
.node_map BUS13$1 151
X$fetdriver1 153 114 115 158 122 116 117 118 148 149 150 151 160 154 fetdriver vars: fetdriver_type='n' fetdriver_on_adjust='no' fetdriver_on_adjust_por='1' fetdriver_on_adjust_name='text' fetdriver_on_adjust_description='text' fetdriver_off_adjust='no' fetdriver_off_adjust_por='0' fetdriver_off_adjust_name='text' fetdriver_off_adjust_description='text' fetdriver_faultdisable='no' fetdriver_levelshiftenable='yes' fetdriver_levelshiftinput='yes' fetdriver_status_levelshifter='no' fetdriver_status_delay_adjust='no' fetdriver_statusdelay_name='text' fetdriver_statusdelay_description='text' fetdriver_passive='1000' fetdriver_dft='no' fetdriver_design='consumer' fetdriver_on_ron=10 fetdriver_off_ron=10 fetdriver_vmaxlevelshift=6 fetdriver_status_delay=0 fetdriver_vmax=6
X$fetdriver2 153 96 97 158 104 98 99 100 140 141 142 143 157 154 fetdriver vars: fetdriver_type='n' fetdriver_on_adjust='no' fetdriver_on_adjust_por='1' fetdriver_on_adjust_name='text' fetdriver_on_adjust_description='text' fetdriver_off_adjust='no' fetdriver_off_adjust_por='0' fetdriver_off_adjust_name='text' fetdriver_off_adjust_description='text' fetdriver_faultdisable='no' fetdriver_levelshiftenable='yes' fetdriver_levelshiftinput='yes' fetdriver_status_levelshifter='no' fetdriver_status_delay_adjust='no' fetdriver_statusdelay_name='text' fetdriver_statusdelay_description='text' fetdriver_passive='1000' fetdriver_dft='no' fetdriver_design='consumer' fetdriver_on_ron=10 fetdriver_off_ron=10 fetdriver_vmaxlevelshift=6 fetdriver_status_delay=0 fetdriver_vmax=6
X$fetdriver3 153 105 106 158 113 107 108 109 144 145 146 147 159 154 fetdriver vars: fetdriver_type='n' fetdriver_on_adjust='no' fetdriver_on_adjust_por='1' fetdriver_on_adjust_name='text' fetdriver_on_adjust_description='text' fetdriver_off_adjust='no' fetdriver_off_adjust_por='0' fetdriver_off_adjust_name='text' fetdriver_off_adjust_description='text' fetdriver_faultdisable='no' fetdriver_levelshiftenable='yes' fetdriver_levelshiftinput='yes' fetdriver_status_levelshifter='no' fetdriver_status_delay_adjust='no' fetdriver_statusdelay_name='text' fetdriver_statusdelay_description='text' fetdriver_passive='1000' fetdriver_dft='no' fetdriver_design='consumer' fetdriver_on_ron=10 fetdriver_off_ron=10 fetdriver_vmaxlevelshift=6 fetdriver_status_delay=0 fetdriver_vmax=6
X$fetdriver4 152 63 64 162 71 65 66 67 123 124 125 126 161 76 fetdriver vars: fetdriver_type='p' fetdriver_on_adjust='no' fetdriver_on_adjust_por='0' fetdriver_on_adjust_name='text' fetdriver_on_adjust_description='text' fetdriver_off_adjust='no' fetdriver_off_adjust_por='0' fetdriver_off_adjust_name='text' fetdriver_off_adjust_description='text' fetdriver_faultdisable='no' fetdriver_levelshiftenable='yes' fetdriver_levelshiftinput='yes' fetdriver_status_levelshifter='no' fetdriver_status_delay_adjust='no' fetdriver_statusdelay_name='text' fetdriver_statusdelay_description='text' fetdriver_passive='1000' fetdriver_dft='no' fetdriver_design='consumer' fetdriver_on_ron=10 fetdriver_off_ron=1 fetdriver_vmaxlevelshift=30 fetdriver_status_delay=5 fetdriver_vmax=6
X$fetdriver5 152 81 82 162 89 83 84 85 133 134 135 136 161 95 fetdriver vars: fetdriver_type='p' fetdriver_on_adjust='no' fetdriver_on_adjust_por='0' fetdriver_on_adjust_name='text' fetdriver_on_adjust_description='text' fetdriver_off_adjust='no' fetdriver_off_adjust_por='0' fetdriver_off_adjust_name='text' fetdriver_off_adjust_description='text' fetdriver_faultdisable='no' fetdriver_levelshiftenable='yes' fetdriver_levelshiftinput='yes' fetdriver_status_levelshifter='no' fetdriver_status_delay_adjust='no' fetdriver_statusdelay_name='text' fetdriver_statusdelay_description='text' fetdriver_passive='1000' fetdriver_dft='no' fetdriver_design='consumer' fetdriver_on_ron=10 fetdriver_off_ron=1 fetdriver_vmaxlevelshift=30 fetdriver_status_delay=5 fetdriver_vmax=6
.PRINT V(#FRTNL)
.GRAPH :#FRTNL axisType="auto" persistence=-1 curveLabel="FRTNL" analysis="tran|pop" xLog="auto" yLog="auto"  nowarn=true disabled=false PROBEREF=Probe1  
X$U1 154 pinprobe vars: pinprobe_description='phase0' pinprobe_mode='input' pinprobe_input='tbd' pinprobe_output='tbd'
X$U10 158 156 105 112 111 110 fetdn vars: fet_usage='power' fet_replica='no' fet_type='n' fet_diode='yes' fet_diodedrive='diode' fet_kelvin='no' fet_dft='no' fet_layoutrotate='no' fet_powerswitch='yes' fet_ron_signal=1k fet_ron_power=1 fet_replica_gain=10 fet_maximumvds=24 count_1=0 fet_vmax=6
X$U11 152 pinprobe vars: pinprobe_description='HV' pinprobe_mode='tbd' pinprobe_input='tbd' pinprobe_output='tbd'
X$U12 90 156 137 138 139 92 91 158 capacitorfixed vars: capacitor_control='capacitor' capacitor_datasheet_accurate_name='text' capacitor_datasheet_accurate_description='text' capacitor_adjust_control='factory' capacitor_datasheet_adjust_name='text' capacitor_datasheet_adjust_description='text' capacitor_kelvin='no' capacitor_type='tbd' capacitor_dft='no' capacitor_value=40 capacitor_accurate_value=1 capacitor_accurate_lsb=1 capacitor_adjust0=1 capacitor_adjust1=2 capacitor_adjust2=4 capacitor_adjust3=8 capacitor_adjust4=0 capacitor_adjust5=0 capacitor_adjust6=0 capacitor_adjust7=0 capacitor_adjust_por=4 capacitor_1=0 capacitor_vinitial=0 capacitor_0=0 capacitor_vmax=6 capacitor_maximumvoltage=30
X$U13 72 152 127 128 129 74 73 162 capacitorfixed vars: capacitor_control='capacitor' capacitor_datasheet_accurate_name='text' capacitor_datasheet_accurate_description='text' capacitor_adjust_control='factory' capacitor_datasheet_adjust_name='text' capacitor_datasheet_adjust_description='text' capacitor_kelvin='no' capacitor_type='tbd' capacitor_dft='no' capacitor_value=10 capacitor_accurate_value=1 capacitor_accurate_lsb=1 capacitor_adjust0=1 capacitor_adjust1=2 capacitor_adjust2=4 capacitor_adjust3=8 capacitor_adjust4=0 capacitor_adjust5=0 capacitor_adjust6=0 capacitor_adjust7=0 capacitor_adjust_por=4 capacitor_1=0 capacitor_vinitial=0 capacitor_0=0 capacitor_vmax=6 capacitor_maximumvoltage=30
X$U14 159 pinprobe vars: pinprobe_description='mode2' pinprobe_mode='input' pinprobe_input='tbd' pinprobe_output='tbd'
X$U15 152 156 63 70 69 68 fet vars: fet_usage='power' fet_replica='no' fet_type='p' fet_diode='yes' fet_diodedrive='diode' fet_kelvin='no' fet_dft='no' fet_layoutrotate='no' fet_powerswitch='no' fet_ron_signal=1k fet_ron_power=1 fet_replica_gain=10 fet_maximumvds=30 count_1=0 fet_vmax=6
X$U16 77 152 130 131 132 79 78 81 capacitorfixed vars: capacitor_control='capacitor' capacitor_datasheet_accurate_name='text' capacitor_datasheet_accurate_description='text' capacitor_adjust_control='factory' capacitor_datasheet_adjust_name='text' capacitor_datasheet_adjust_description='text' capacitor_kelvin='no' capacitor_type='tbd' capacitor_dft='no' capacitor_value=1 capacitor_accurate_value=1 capacitor_accurate_lsb=1 capacitor_adjust0=1 capacitor_adjust1=2 capacitor_adjust2=4 capacitor_adjust3=8 capacitor_adjust4=0 capacitor_adjust5=0 capacitor_adjust6=0 capacitor_adjust7=0 capacitor_adjust_por=4 capacitor_1=0 capacitor_vinitial=0 capacitor_0=0 capacitor_vmax=6 capacitor_maximumvoltage=30
X$U17 152 156 81 88 87 86 fet vars: fet_usage='power' fet_replica='no' fet_type='p' fet_diode='yes' fet_diodedrive='diode' fet_kelvin='no' fet_dft='no' fet_layoutrotate='no' fet_powerswitch='no' fet_ron_signal=1k fet_ron_power=1 fet_replica_gain=10 fet_maximumvds=30 count_1=0 fet_vmax=6
X$U19 155 94 159 nand2 vars: logicgate_type='nand2' logicgate_vmax=6
X$U2 155 pinprobe vars: pinprobe_description='phase1' pinprobe_mode='tbd' pinprobe_input='tbd' pinprobe_output='tbd'
X$U20 94 95 inv vars: logicgate_type='inv' logicgate_vmax=6
X$U21 75 76 inv vars: logicgate_type='inv' logicgate_vmax=6
X$U22 155 75 160 nand2 vars: logicgate_type='nand2' logicgate_vmax=6
X$U23 152 153 162 158 161 80 93 floatingreturn vars: floatingreturn_strength='strong' floatingreturn_accuracy='no' floatingreturn_trim_name='text' floatingreturn_trim_description='text' floatingreturn_quiet='no' floatingreturn_dft='no' floatingreturn_supply=30 floatingreturn_okdelay=0 floatingreturn_vmax=6
X$U3 157 pinprobe vars: pinprobe_description='mode1' pinprobe_mode='input' pinprobe_input='tbd' pinprobe_output='tbd'
X$U30 161 pinprobe vars: pinprobe_description='Enable_DOUBLE_precharge' pinprobe_mode='input' pinprobe_input='tbd' pinprobe_output='tbd'
X$U4 160 pinprobe vars: pinprobe_description='mode3' pinprobe_mode='input' pinprobe_input='tbd' pinprobe_output='tbd'
X$U5 158 pinprobe vars: pinprobe_description='PGND' pinprobe_mode='tbd' pinprobe_input='tbd' pinprobe_output='tbd'
X$U6 156 pinprobe vars: pinprobe_description='CLOW' pinprobe_mode='tbd' pinprobe_input='tbd' pinprobe_output='tbd'
X$U7 158 156 114 121 120 119 fetdn vars: fet_usage='power' fet_replica='no' fet_type='n' fet_diode='yes' fet_diodedrive='diode' fet_kelvin='no' fet_dft='no' fet_layoutrotate='no' fet_powerswitch='yes' fet_ron_signal=1k fet_ron_power=1 fet_replica_gain=10 fet_maximumvds=24 count_1=0 fet_vmax=6
X$U8 158 156 96 103 102 101 fetdn vars: fet_usage='power' fet_replica='no' fet_type='n' fet_diode='yes' fet_diodedrive='diode' fet_kelvin='no' fet_dft='no' fet_layoutrotate='no' fet_powerswitch='yes' fet_ron_signal=1k fet_ron_power=1 fet_replica_gain=10 fet_maximumvds=24 count_1=0 fet_vmax=6
X$U9 153 pinprobe vars: pinprobe_description='Input_Voltage_Supply' pinprobe_mode='tbd' pinprobe_input='tbd' pinprobe_output='tbd'
.ends CHARGEPUMPpowerLowside

** From Z:\celera\projects\Simplis\playbrian\trials\design\CHARGEPUMPctrl.sxcmp
.subckt CHARGEPUMPctrl 22 23 24
*#hierarchy
.node_map p1 23
.node_map p2 24
.node_map BUS1$0 12
.node_map BUS1$1 13
.node_map BUS1$2 14
.node_map BUS1$3 15
.node_map BUS1$4 16
.node_map BUS2$0 17
.node_map BUS2$1 18
.node_map BUS2$2 19
.node_map BUS2$3 20
.node_map BUS2$4 21
.node_map clk 22
X$U1 22 pinprobe vars: pinprobe_description='clk_input' pinprobe_mode='input' pinprobe_input='ebrick' pinprobe_output='tbd'
X$U10 11 24 inv vars: logicgate_type='inv' logicgate_vmax=6
X$U2 23 pinprobe vars: pinprobe_description='input_phase' pinprobe_mode='output' pinprobe_input='tbd' pinprobe_output='tbd'
X$U3 10 17 18 19 20 21 11 timingskew vars: timingskew_type='fall' timingskew_control='register' timingskew_dft='no' timingskew_datasheet_name='CHARGEPUMPfallSKEW' timingskew_datasheet_description='charge_pump_falling_edge_skew' timingskew_bits=5 timingskew_por=7 timingskew_lsb=8 timingskew_vmax=6
X$U4 10 22 dbuf vars: logicgate_type='dbuf' logicgate_vmax=6
X$U6 24 pinprobe vars: pinprobe_description='output_phase' pinprobe_mode='output' pinprobe_input='tbd' pinprobe_output='tbd'
X$U7 10 12 13 14 15 16 23 timingskew vars: timingskew_type='rise' timingskew_control='register' timingskew_dft='no' timingskew_datasheet_name='CHARGEPUMPriseSKEW' timingskew_datasheet_description='Charge_pump_rising_edge_delay' timingskew_bits=5 timingskew_por=7 timingskew_lsb=8 timingskew_vmax=6
.ends CHARGEPUMPctrl

** From Z:\celera\projects\Simplis\playbrian\trials\verification\FORCE_CHARGEPUMPmain.sxcmp


.end
